US05220018
3-Nitro-(2-methyltetrazol-5-yl)benzene
3-Nitro-(1H-tetrazol-5-yl)benzene (0.99 g) was added at 0° C. to a magnetically stirred suspension of sodium hydride (243 mg, 60% oil dispersion) in 50 ml of dry tetrahydrofuran. The reaction mixture was stirred for 15 minutes and then iodomethane was added in 6 increments of 0.5 ml over a 3 hour period. The reaction mixture was concentrated in vacuo and the residue was partitioned between water (50 ml) and ethyl acetate. The aqueous layer was extracted (2×15 ml) with ethyl acetate and the combined organic extracts were washed with brine, dried, and concentrated. The title compound was obtained as a solid after flash chromatography on silica gel (chloroform-methanol, 95:5).

reactant | 3-Nitro-(1H-tetrazol-5-yl)benzene | 0.99 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NN=NN1 | C7H5N5O2
reactant | sodium hydride | 243 mg | [H-].[Na+]
reactant | iodomethane | IC | CH3I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-Nitro-(2-methyltetrazol-5-yl)benzene | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=NN(N1)C | C8H7N5O2
